US09145411B2
Step 1: 4-(2-chloro-6-fluoro-7-(3-(methylsulfonyl)-phenyl)quinazolin-4-yl)-morpholine
To a 50 mL round bottom flask, 4-(7-bromo-2-chloro-6-fluoroquinazolin-4-yl)morpholine (0.15 g, 0.0004 mol—Preparation 2), 3-methylsulfonylphenylboronic acid (0.078 g, 0.00039 mol), sodium carbonate (0.114 g, 0.0011 mol), DMF (6 mL) and water (2 mL) were added. The reaction vessel was degassed with N2 for 5-10 minutes. To the same reaction mixture, Pd(PPh3)2Cl2 (0.015 g, 0.000022 mol) was added and again degassed with N2 for 5-10 minutes. The reaction mixture was stirred at 90° C. for 3 hours. The reaction mixture was cooled and diluted with ethyl acetate. The organic layer was washed with water, brine and dried over sodium sulfate. The solvent was removed under the reduced pressure to afford the crude product. The crude product was purified by column chromatography (60-120 silica gel, 50% ethyl acetate in n-hexane) to yield the desired product (0.12 g, 66%). 1H NMR (300 MHz, CDCl3): δ 8.23 (d, J=1.8 Hz, 1H), 8.06-7.90 (m, 3H), 7.68 (t, J=7.8 Hz, 1H), 7.64 (d, J=11.1 Hz, 1H), 3.92 (s, 8H), 3.12 (s, 3H): LC-MS (ESI): Calculated mass: 421.0; Observed mass [M+H]+: 422.1 (RT=1.45 min).

reactant | 4-(7-bromo-2-chloro-6-fluoroquinazolin-4-yl)morpholine | 0.0004 mol, 0.15 g | BrC1=C(C=C2C(=NC(=NC2=C1)Cl)N1CCOCC1)F | C12H10BrClFN3O
reactant | 3-methylsulfonylphenylboronic acid | 0.00039 mol, 0.078 g | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
reactant | sodium carbonate | 0.0011 mol, 0.114 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.000022 mol, 0.015 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 2 mL | O | H2O
product | 4-(2-chloro-6-fluoro-7-(3-(methylsulfonyl)-phenyl)quinazolin-4-yl)-morpholine | 0.12 g, 66% | ClC1=NC2=CC(=C(C=C2C(=N1)N1CCOCC1)F)C1=CC(=CC=C1)S(=O)(=O)C | C19H17ClFN3O3S
